US06320050B1
A mixture of 2-(4-chloro-phenyl)-3-cyclopentyl-propionic acid methyl ester (648 mg, 2.43 mmol) and 2-aminothiazole (487 mg, 4.86 mmol) in a solution of magnesium methoxide in methanol (7.4 wt %, 14.0 mL, 9.72 mmol) was refluxed at 100° C. for 20 h. The reaction mixture was then concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 80/20 hexanes/ethyl acetate) afforded 2-(4-chloro-phenyl)-3-cyclopentyl-N-thiazol-2-yl-propionamide (286 mg, 35%) as a white solid: mp 156.6-159.8° C.; EI-HRMS m/e calcd for C17H19ClN2OS (M+) 334.0906, found 334.0910.

reactant | 2-(4-chloro-phenyl)-3-cyclopentyl-propionic acid methyl ester | 2.43 mmol, 648 mg | COC(C(CC1CCCC1)C1=CC=C(C=C1)Cl)=O | C15H19ClO2
reactant | 2-aminothiazole | 4.86 mmol, 487 mg | NC=1SC=CN1 | C3H4N2S
reactant | magnesium methoxide | C[O-].[Mg+2].C[O-]
reactant | methanol | 9.72 mmol, 14.0 mL | CO | CH4O
product | 2-(4-chloro-phenyl)-3-cyclopentyl-N-thiazol-2-yl-propionamide | 286 mg, 35% | ClC1=CC=C(C=C1)C(C(=O)NC=1SC=CN1)CC1CCCC1 | C17H19ClN2OS
